US07687503B2
7.6. 2-(methylamino)-2-oxoethyl 4-{6-[3-(trifluoro-methyl)phenyl]-3-pyridyl}-1-piperazinecarboxylate
The procedure described in Example 1 (step 1.4.) is used. Starting with 0.60 g (1.37 mmol) of 2-(ethyloxy)-2-oxoethyl 4-{6-[3-(trifluoromethyl)phenyl]-3-pyridyl}-1-piperazinecarboxylate, obtained in step 7.5., and 3.40 ml (6.86 mmol) of a solution of methylamine (2M) in tetrahydrofuran, and after chromatography on silica gel, eluting with a 98/2 and then 97/3 mixture of dichloromethane and methanol, followed by washing with diisopropyl ether, 0.36 g of pure product is obtained in the form of a white solid.

reactant | 2-(ethyloxy)-2-oxoethyl 4-{6-[3-(trifluoromethyl)phenyl]-3-pyridyl}-1-piperazinecarboxylate | 1.37 mmol, 0.60 g | FC(C=1C=C(C=CC1)C1=CC=C(C=N1)N1CCN(CC1)C(=O)OCC(=O)OCC)(F)F | C21H22F3N3O4
reactant | methylamine | 2M | CN | CH5N
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(methylamino)-2-oxoethyl 4-{6-[3-(trifluoro-methyl)phenyl]-3-pyridyl}-1-piperazinecarboxylate | 0.36 g | FC(C=1C=C(C=CC1)C1=CC=C(C=N1)N1CCN(CC1)C(=O)OCC(=O)NC)(F)F | C20H21F3N4O3
